US04345934
1-(4-Fluorophenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic acid (1.5 g) is suspended in 100 ml of dry methanol, and 0.242 g of sodium hydroxide is added. To the solution is added dropwise 1.038 g of bromine dissolved in 50 ml of methanol. The solvent is removed leaving a white solid, which is taken up in dilute base and the solution acidified with hydrochloric acid. The resulting precipitate is filtered and recrystallized from chloroform/ether to yield 1.4 g of 1-(4-fluorophenyl)-5-bromo-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic acid. (mp-219°-20°).

reactant | 1-(4-Fluorophenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic acid | 1.5 g | FC1=CC=C(C=C1)N1N=C(C(C=C1C)=O)C(=O)O | C12H9FN2O3
reactant | sodium hydroxide | 0.242 g | [OH-].[Na+]
reactant | bromine | 1.038 g | BrBr | Br2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-fluorophenyl)-5-bromo-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic acid | 1.4 g | FC1=CC=C(C=C1)N1N=C(C(C(=C1C)Br)=O)C(=O)O | C12H8BrFN2O3
